US05739299
2--Chloro-5-nitro benzene sulphonic acid (484 parts) was charged to a flask then quickly added thionyl chloride (1190 parts) and dimethyl formamide (12 parts). The resultant slurry was heated to 60° C. and stirred at 60°-65° C. for a total of 5 hours. The mixture was cooled to room temperature then poured onto ice/water. The precipitated solid was filtered off and washed with cold water before drying in vac oven to yield the product 2-chloro-5-nitro benzene sulphonylchloride (395 parts).

reactant | 2--Chloro-5-nitro benzene sulphonic acid | ClC1=C(C=C(C=C1)[N+](=O)[O-])S(=O)(=O)O | C6H4ClNO5S
reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
solvent | dimethyl formamide | CN(C=O)C | C3H7NO
product | 2-chloro-5-nitro benzene sulphonylchloride | ClC1=C(C=C(C=C1)[N+](=O)[O-])S(=O)(=O)Cl | C6H3Cl2NO4S
